US06239151B1
A solution of 0.300 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-[2-(4-piperidinyl)acetyl]valerohydrazide in 3 ml of 4M hydrogen chloride in dioxan was stirred for 2.5 hours at room temperature and diluted with diethyl ether. The solid was filtered off, washed with diethyl ether and dried to give 0.256 g of (E)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-[2-(4-piperidinyl)acetyl]valerohydrazide hydrochloride in the form of an off-white solid.

reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-[2-(4-piperidinyl)acetyl]valerohydrazide | 0.300 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(C(CC1CCNCC1)=O)CC(C)C)CC(C)C | C33H52N4O5
reactant | hydrogen chloride | 4M, 3 ml | Cl | ClH
solvent | dioxan | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | (E)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-[2-(4-piperidinyl)acetyl]valerohydrazide hydrochloride | 0.256 g | Cl.ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(C(CC1CCNCC1)=O)CC(C)C)CC(C)C | InChI=1S/C28H44N4O4.ClH/c1-20(2)17-25(24(28(35)31-36)12-8-11-22-9-6-5-7-10-22)27(34)30-32(19-21(3)4)26(33)18-23-13-15-29-16-14-23;/h5-11,20-21,23-25,29,36H,12-19H2,1-4H3,(H,30,34)(H,31,35);1H/b11-8+;/t24-,25+;/m0./s1
